US07897589B2
[5-(4-Chloro-phenyl)-1-(2,4-dichloro-phenyl)-4,5-dihydro-1H-pyrazol-3-carboxylic acid ethyl ester
5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4,5-dihydro-pyrazole-3-carboxylic acid (0.55 g, 1.50 mmol) was dissolved in 20 mL of toluene and (2 mL) ethanol and (0.05 g) of p-toluenesulfonic acid monohydrate were added. The mixture was heated at 80° C. for 72 hours. After cooling to room temperature, the reaction mixture washed with sodium hydrogen carbonate solution and water, dried over sodium sulphate and evaporated to dryness to give the title compound in form of oil.

reactant | 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4,5-dihydro-pyrazole-3-carboxylic acid | 1.50 mmol, 0.55 g | ClC1=CC=C(C=C1)C1CC(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)O | C16H11Cl3N2O2
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | p-toluenesulfonic acid monohydrate | 0.05 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Chloro-phenyl)-1-(2,4-dichloro-phenyl)-4,5-dihydro-1H-pyrazol-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(C1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C18H15Cl3N2O2
